US05916786
(2S,3R)-2,3-dimethylbutyrolactone (1 gram) was dissolved in 5 ml of absolute ethanol, followed by the addition of 0.5 gram of gaseous ammonia. The solution was kept in a stoppered flask, and the progress of the reaction was followed by thin layer chromatography (eluent dichloromethane/methanol 20:1). After the reaction was judged complete, the ethanol was evaporated and the resulting residue redissolved in ethyl acetate. Ammonia was removed by extraction with 1% HCl, and the ethyl acetate solution was dried over MgSO4, filtered, and rotary evaporated to leave 0.7 grams of (2S,3R)-2,3-dimethyl-4-hydroxybutyramide.

reactant | (2S,3R)-2,3-dimethylbutyrolactone | 1 gram | C[C@@H]1C(=O)OC[C@@H]1C | C6H10O2
reactant | ammonia | 0.5 gram | N | H3N
reactant | dichloromethane methanol | ClCCl.CO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (2S,3R)-2,3-dimethyl-4-hydroxybutyramide | 0.7 grams | C[C@H](C(=O)N)[C@H](CO)C | C6H13NO2
